US05889026
1-[2-(4-benzyloxy-phenoxy)-ethyl]-4-(4-methoxy-benzyl)-piperidin-4-ol
The title compound, MS: m/e=448.5 (M+H+), was prepared from 1-(2-bromoethoxy)-4-(benzyloxy)-benzene and 4-(4-methoxy-benzyl)-piperidin-4-ol.

reactant | 1-(2-bromoethoxy)-4-(benzyloxy)-benzene | BrCCOC1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H15BrO2
reactant | 4-(4-methoxy-benzyl)-piperidin-4-ol | COC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO2
product | 1-[2-(4-benzyloxy-phenoxy)-ethyl]-4-(4-methoxy-benzyl)-piperidin-4-ol | C(C1=CC=CC=C1)OC1=CC=C(OCCN2CCC(CC2)(O)CC2=CC=C(C=C2)OC)C=C1 | C28H33NO4
